US09212182B2
To a solution of 2-bromo-1-fluoro-4-methoxybenzene (500.0 g, 2.44 mol, 1.0 equiv) in DCM (5.0 L) was added silver trifluoromethane sulfonate (686.0 g, 2.68 mol, 1.1 equiv, Angene) and the reaction mixture was stirred for 20 mins. Iodine (678.0 g, 2.68 mol, 1.1 equiv) was added to the reaction and the mixture was stirred at room temperature for 16 h. The mixture was diluted with DCM (3.0 L) and filtered through celite. The celite bed was washed with DCM (2×1.0 L) and the filtrate was washed with 20% aqueous sodium thiosulfate (3.0 L) and saturated aqueous sodium bicarbonate solution (3.0 L). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to obtain the crude material which was purified by chromatography (silica gel; mesh size 60-120, elution 0-5% ethyl acetate and petroleum ether) to get 1-bromo-2-fluoro-4-iodo-5-methoxybenzene (720 g, 87%), as off-white solid. TLC solvent system: 100% hexanes. Product's Rf: 0.6. MS (ESI, positive ion) m/z: 331.0 (M+1). 1H NMR (400 MHz, CDCl3) δ 7.55 (d, J=7.2 Hz, 1H), 6.95 (d, J=5.6 Hz, 1H), 3.89 (s, 3H).

reactant | 2-bromo-1-fluoro-4-methoxybenzene | 2.44 mol, 500.0 g, 1.0 equiv | BrC1=C(C=CC(=C1)OC)F | C7H6BrFO
reactant | Iodine | 2.68 mol, 678.0 g, 1.1 equiv | II | I2
solvent | DCM | 5.0 L | C(Cl)Cl | CH2Cl2
solvent | DCM | 3.0 L | C(Cl)Cl | CH2Cl2
catalyst | silver trifluoromethane sulfonate | 2.68 mol, 686.0 g, 1.1 equiv | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | 1-bromo-2-fluoro-4-iodo-5-methoxybenzene | 720 g, 87% | BrC1=C(C=C(C(=C1)OC)I)F | C7H5BrFIO
